US08455477B2
To a mixture of 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (20 mg, 0.080 mmol), 5-ethyl-4-iodo-1-phenyl-1H-pyrazole (24 mg, 0.08 mmol), copper (I) iodide (4.5 mg, 0.024 mmol), and tetrakis(triphenylphosphine)palladium (0) (9.2 mg, 0.0079 mmol) in N,N-dimethylformamide (2 ml), was added triethylamine (0.022 ml, 0.16 mmol). The mixture was sparged with argon for 3 minutes and heated to 70° C. After 1 h, reaction mixture was purified directly by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give 3-[(5-ethyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine.

reactant | 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.080 mmol, 20 mg | C(#C)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C14H12N4O
reactant | 5-ethyl-4-iodo-1-phenyl-1H-pyrazole | 0.08 mmol, 24 mg | C(C)C1=C(C=NN1C1=CC=CC=C1)I | C11H11IN2
reactant | triethylamine | 0.16 mmol, 0.022 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.024 mmol, 4.5 mg | [Cu]I
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0079 mmol, 9.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[(5-ethyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | C(C)C1=C(C=NN1C1=CC=CC=C1)C#CC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C25H22N6O
